US05130335
4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoic acid
A mixture of 150 mg (0.3394 mmol) of benzyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate and 50 mg of 10% palladium on carbon in 5 ml of ethyl acetate was stirred under a hydrogen atmosphere at room temperature for 4 hours. The reaction mixture was then filtered and the filtrate was concentrated in-vacuo. The residue was dissolved in ether and extracted with aqueous NaOH solution. The aqueous extract was then acidified with glacial acetic acid and extracted with ether. The ether extract was washed with saturated NaCl solution and then concentrated in-vacuo. The resultant residue was recrystallized from ethyl acetate to give the title compound as a white solid.

reactant | benzyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | 0.3394 mmol, 150 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C29H30O4
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)O)C=C1)C | C22H24O4
